US09340544B2
(2-Chloro-9H-purin-6-yl)-cyclohexyl-amine
2,6-Dichloropurine (2.5 g, 13.23 mmol) and cyclohexylamine (1.51 mL, 13.2 mmol) were dissolved in acetonitrile (25 mL) and heated to 50° C. for 5 days. The white precipitate was collected by filtration and used without further purification.

reactant | 2,6-Dichloropurine | 13.23 mmol, 2.5 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | cyclohexylamine | 13.2 mmol, 1.51 mL | C1(CCCCC1)N | C6H13N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | (2-Chloro-9H-purin-6-yl)-cyclohexyl-amine | ClC1=NC(=C2N=CNC2=N1)NC1CCCCC1 | C11H14ClN5
